US04808762
Under nitrogen a mixture of 2.9 grams (0.01 mole) of 3-(3-phenoxyphenyl)propyl bromide and 2.9 grams (0.01 mole) of triphenylphosphine in 25 mL of acetonitrile was heated at reflux overnight. The solvent was evaporated under reduced pressure. Toluene was added to the residue, and this mixture was heated at reflux for 90 minutes during which a solid formed. Filtration yielded 4.2 grams of 3-(3-phenoxyphenyl)propyltriphenylphosphonium bromide, m.p. 198°-200° C.

reactant | 3-(3-phenoxyphenyl)propyl bromide | 0.01 mole, 2.9 grams | O(C1=CC=CC=C1)C=1C=C(C=CC1)CCCBr | C15H15BrO
reactant | triphenylphosphine | 0.01 mole, 2.9 grams | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 3-(3-phenoxyphenyl)propyltriphenylphosphonium bromide | 4.2 grams | [Br-].O(C1=CC=CC=C1)C=1C=C(C=CC1)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C33H30OP.BrH/c1-5-17-29(18-6-1)34-30-19-13-15-28(27-30)16-14-26-35(31-20-7-2-8-21-31,32-22-9-3-10-23-32)33-24-11-4-12-25-33;/h1-13,15,17-25,27H,14,16,26H2;1H/q+1;/p-1
